Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril / Hydralazine
 
Attending: ___.
 
Chief Complaint:
Lower extremity pain
 
Major Surgical or Invasive Procedure:
Skin biopsy of right calf
Skin biopsy of right digit

 
History of Present Illness:
Mr. ___ is a ___ yo M with history of HTN, CKD, hydralazine 
induced vasculitis on prednisone several recent hospitalizations 
for pseudomonas bacteremia, C difficile colitis and non-healing 
lower extremity leg ulcers
.
The patient was recently admitted from ___ with sepsis 
secondary to P. putida and C. difficile protocolitis complicated 
by ATN (renal biopsy negative for vasculitis). He was treated 
with a 2 week course of cefepime in addition to po vancomycin. 
During that admission he was found to have several macular 
petechiae on his R>L extremities with bullous lesions, biopsy 
was performed which grew P. putida. Pathology from the biopsy 
was notable for leukocytoclastic vasculitis with thrombosis. 
Overlying bulla formation was consistent with ischemia. He was 
discharged to ___ on ___.
.
IN the interim pt was transferred to an OSH for sepsis and 
returned to ___ again on ___. On ___ he was evaluated by 
an ID physician at his rehab facility who was concerned for 
cellulitis of his ___ ulceration and tigecycline was started. He 
was transferred back to ___ for evaluation on ___ in the 
setting of ?expanding erythema and increasing discharge.
.
In the ED, initial VS were: 98.1 53 140/79 18 100% ra. WBC found 
to be 24, lactate 2.2. Patient received Cefepime, and 
intravenous and oral vancomycin. Overnight his antibiotics were 
transitioned from cefepime to imipenem after review of culture 
data and concern over cefepime indetermine pseudomonas.

This morning patient is feeling up beat. Over he reports that 
his wounds have significantly improved over the last 8 weeks 
though notes that his rehab was concerned for increasing 
erythema and malodorous discharge. However he continued to 
endorse significant pain in bilateral lower extremities, 
especially with ambulation. 
  
ROS: per HPI; denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.  
 

 
Past Medical History:
# HTN
# HLD
# DM 2 w/ neuropathy, retinopathy, dx'd ___
# CRF stage III since ___
# Anxiety
# CAD (cardiologist Dr ___
# Laryngeal/pharyngeal mass (biopsy neg) turned out to be soft 
tissue swelling s/p tracheostomy in ___
# CABG x ___ (___)
# orif fx mandible ___
# trach, fiberoptic intubation, DL and biopsy ___
# Hydralazine induced autoimmune syndrome

 
Social History:
___
Family History:
Mother with COPD
 
Physical Exam:
Vitals: T: 97.5, BP: 160/81, P: 84, R: 17, O2: 100% RA  
General: Alert, oriented, non-toxic appearing 
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: supple, patient has stoma that appears to be without 
ulceration or erythema 
CV: S1, S2, no murmurs auscultation
Lungs: CTA  
Abdomen: soft, non-tender, non-distended, bowel sounds present  
Ext: warm, well perfused, 2+ pulses, ___ pitting edema of lower 

extremities, Neuro: Strength and sensation grossly normal.
 LLE: full thickness ulcer with tendon exposed; wound bed 
covered by thin brown eschar. Small amount surrounding erythema, 

 Left heel:  dry fissured ulcer 3 x 1 cm
 RLE:  lateral foot with full thickness ulcer, necrotic eschar
 Right medial ___: full thickness 8 x 9 cm ulcer with minimal
amount necrotic tissue,
 Right lateral ___ full thickness ulcer approx 3.5 x 4.5 cm, soft
black/yellow eschar 
Drainage from the RLE ulcers is moderate and has a foul odor.

 
Pertinent Results:
Plain films of bilateral lower extremities:
MULTIPLE STUDIES OF THE LOWER EXTREMITIES 
  
HISTORY:  ___ man with non-healing ulcers.  Looking for 
evidence of osteomyelitis. 
Following views are submitted.  Five views of the right lower 
leg, three views of the right foot, five views of the left lower 
leg, and three views of the left foot.  There is extensive soft 
tissue ulceration, but no evidence of fasciitis, osteomyelitis, 
or purulent arthritis. 

CXR:
FINDINGS:  AP upright and lateral views of the chest were 
provided.  Midline sternotomy wires and mediastinal clips are 
again noted.  There is a new right arm PICC line with tip 
located in the mid SVC.  There is no pneumothorax.  No focal 
consolidation, effusion, or signs of CHF.  The heart and 
mediastinal contour is stable.  Bony structures appear intact.   

IMPRESSION:  Right arm PICC line with tip positioned 
appropriately. 

SPEP:
___ 05:20    NO SPECIFI1 ___ TRACE MONO2 
Source: Line-PICC 
NO SPECIFIC ABNORMALITIES SEEN
BASED ON IFE (SEE SEPARATE REPORT),
TRACE MONOCLONAL FREE (___) LAMBDA DETECTED
BUT BELOW THE DETECTION LIMIT OF PEP
SUGGEST REPEATING PEP IN ___ MONTHS
REPORTED BY ___, PHD;FINAL INTERPRETATION BY ___. 
___, MD

TRACE MONOCLONAL FREE (___) LAMBDA DETECTED
INCREASE IN IGM IS POLYCLONAL
REPORTED BY ___, PHD;FINAL INTERPRETATION BY ___. 
___, MD

Micro:
___ 3:52 pm TISSUE      RIGHT LATERAL CALF BIOPSY.
   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      Reported to and read back by ___ (___) ___ 
@1705. 

   TISSUE (Final ___: 
      PSEUDOMONAS AERUGINOSA.    RARE GROWTH. 
      BETA STREPTOCOCCUS GROUP B.    RARE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
AMIKACIN--------------    32 I
CEFEPIME--------------     4 S
CEFTAZIDIME-----------     2 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------     4 I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------  =>16 R

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      NO FUNGAL ELEMENTS SEEN. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): pending
Blood culture: NGTD

___ 03:25PM BLOOD WBC-24.2*# RBC-4.24*# Hgb-11.7*# 
Hct-36.3*# MCV-86 MCH-27.5 MCHC-32.1 RDW-18.9* Plt ___
___ 04:35AM BLOOD WBC-25.2* RBC-3.96* Hgb-11.0* Hct-34.6* 
MCV-87 MCH-27.9 MCHC-31.9 RDW-19.0* Plt ___
___ 03:59AM BLOOD WBC-18.0* RBC-3.84* Hgb-10.7* Hct-33.9* 
MCV-88 MCH-28.0 MCHC-31.7 RDW-19.1* Plt ___
___ 05:20AM BLOOD WBC-15.7* RBC-3.85* Hgb-10.4* Hct-34.0* 
MCV-88 MCH-27.1 MCHC-30.6* RDW-19.3* Plt ___
___ 05:54AM BLOOD WBC-14.9* RBC-3.76* Hgb-10.6* Hct-33.4* 
MCV-89 MCH-28.2 MCHC-31.8 RDW-19.0* Plt ___
___ 06:00AM BLOOD WBC-12.7* RBC-3.69* Hgb-10.5* Hct-32.6* 
MCV-88 MCH-28.6 MCHC-32.3 RDW-18.9* Plt ___
___ 05:01AM BLOOD WBC-12.7* RBC-3.52* Hgb-9.8* Hct-31.0* 
MCV-88 MCH-27.8 MCHC-31.6 RDW-19.1* Plt ___
___ 06:45AM BLOOD WBC-11.7* RBC-3.63* Hgb-10.0* Hct-31.8* 
MCV-88 MCH-27.6 MCHC-31.5 RDW-18.9* Plt ___
___ 05:31AM BLOOD WBC-11.7* RBC-3.54* Hgb-9.9* Hct-31.4* 
MCV-89 MCH-28.1 MCHC-31.7 RDW-19.0* Plt ___
___ 09:48AM BLOOD WBC-14.9* RBC-3.54* Hgb-10.1* Hct-32.0* 
MCV-90 MCH-28.4 MCHC-31.5 RDW-18.9* Plt ___
___ 04:35AM BLOOD ___ PTT-31.3 ___
___ 03:25PM BLOOD ESR-36*
___ 05:31AM BLOOD Ret Aut-4.5*
___ 05:31AM BLOOD Ret Aut-3.1
___ 05:31AM BLOOD QG6PD-PND
___ 03:25PM BLOOD Glucose-134* UreaN-128* Creat-3.2* Na-138 
K-5.8* Cl-93* HCO3-31 AnGap-20
___ 09:48AM BLOOD Glucose-165* UreaN-56* Creat-2.2* Na-138 
K-5.3* Cl-105 HCO3-25 AnGap-13
___ 03:59AM BLOOD ALT-21 AST-23 LD(LDH)-328* AlkPhos-102 
TotBili-0.2
___ 06:45AM BLOOD ALT-16 AST-25 AlkPhos-73 TotBili-0.3
___ 03:25PM BLOOD Calcium-8.5 Phos-6.4*# Mg-2.3
___ 09:48AM BLOOD Calcium-8.1* Phos-3.6 Mg-1.9 Cholest-PND
___ 05:20AM BLOOD ___ * Titer-GREATER TH
___ 03:25PM BLOOD CRP-37.5*
___ 09:48AM BLOOD Triglyc-PND HDL-PND
___ 09:48AM BLOOD %HbA1c-PND
___ 05:20AM BLOOD PEP-NO SPECIFI IgG-1058 IgA-295 IgM-271* 
IFE-TRACE MONO
___ 03:53PM BLOOD Lactate-2.2*
___ 11:58PM BLOOD Lactate-1.4
 
Brief Hospital Course:
Mr ___ is a ___ year old gentleman with a history of DMII, 
benign tracheal mass/stenosis, ESRD, hydralazine induced 
vasculitis, recent hospitalization with pseudomonal bacteremia 
and lower extremity ulcer infection presenting  with worsening 
extremity pain.

#. Non-healing leg ulcers/Lower extremity pain. On admission 
patient with complaint of lower extremity pain and rehab concern 
for persistent/recurrent infection. On admission, patient with 
elevated WBC and malodorous/purulent discharge appreciated on 
exam. Infectious disease, Vascular surgery, rheumatology and 
dermatology. Patient empirically covered with IV vancomycin, 
imipenem. Antibiotics were narrowed when cultures returned with 
rare group B strep and pseudomonas sensitive to ceftaz. Plain 
films were negative for osteomyelitis therefore decision made to 
treat for two week course; end date of antibiotics: ___. 
Prior to discharge, erythema of left lower extremity recurred 
with WBC uptrending to 14 therefore decision made to restart 
vancomycin 1000mg IV QD. First dose will need to be given at 
rehab on evening of ___. 
Additionally right digit biopsy consistent with neutrophilic 
infiltration with concern for Pyoderma gangrenosum. Dermatology 
recommended started minocycline 100mg PO BID as well as dapsone 
25mg daily. G6Pd was pending at time of discharge therefore 
dapsone was discontinued with plan to start with dermatology as 
an outpatient
OUTPATIENT ISSUES:
[] Continue ceftazadime 1gm Q12hrs; end date: ___
[] Continue vanc 1000mg QD; end date ___
[] Check vancomycin trough on ___ (prior to 4th dose) and 
redose if needed
[] Continue minocycline 100mg PO BID
[] Follow-up pending G6Pd; if negative dermatology will restart 
dapsone as an outpatient
[] Continue enzymatic wound care (avoid further full surgerical 
debridements)
[] Continue pain control with oxycontin 10mg BID; bowel regimen 
as needed
 
# Pyoderma gangrenosum. Biopsy of right digit consistent with 
neutrophilic infiltrate favoring PG. Dermatology recommended 
started minocycline 100mg PO BID as well as dapsone 25mg daily. 
G6Pd was pending at time of discharge therefore dapsone was 
discontinued with plan to start with dermatology as an 
outpatient
OUTPATIENT:
[] Follow-up with dermatology on ___
[] Continue minocycline 100mg PO BID
[] Follow-up pending G6Pd; if negative dermatology will resume 
dapsone

# C. difficile infection, Per report patient with + C.diff at 
rehab on ___ and started on PO vanc. In setting of IV 
antibiotics decision made to complete extended course of PO 
vanc; will plan to continue for additional 10days after 
completion of ceftazidime. Throughout hospitalization patient 
remained without abdominal complaint or loose stool.
OUTPATIENT ISSUES
[] Continue PO vanc 125mg Q6hrs; end date: ___ 

# CKD. Previous stage 3 however creatinine elevation since last 
admission. Renal biopsy with e/o ESRD without notable 
vasculitis. In house, renal supplementation was continued, 
creatinine ranged from 2.2-2.9. K: 5.0-5.4.
On day of discharge, creatinine: 2.2, K 5.3
OUTPATIENT ISSUES: 
[] Monitor electrolytes and renal function (chem 10) weekly 
creatinine (start ___

# Hydralazine induced autoimmune disorder. Rheumatology was 
consulted regarding continued treatment and mgmt. Patient was 
continued on prednisone 30mg daily with plan to taper to 25mg 
daily on ___. Plan to continue 25mg daily x1week. At that time 
will downtitrate to 20mg daily. In house patient was continued 
on pcp ppx, GI ppx, as well as calcium/vitamin.
OUTPATIENT ISSUES
[] Continue prednisone 25mg daily ___ downtitrate to 
20mg daily thereafter 
[] Follow-up with rheumatology on ___

# DM II. Patient continued lantus and ISS. Decision made to 
discontinue oral medications as patient stable on insulin 
regimen.
OUTPATIENT ISSUES:
[] Continue glargine daily; titrate insulin sliding scale as 
needed

# CAD/HTN. Patient continued on outpatient cardiac regimen 
(metoprolol, imdur, ASA); SBPs in house 120s-150s/70-80s. 
Patient remained without cardiovascular complaint.

# PPX: hep sq
# Dispo: rehab

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 7 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
2. GlipiZIDE 5 mg PO DAILY 
3. PredniSONE 30 mg PO DAILY 
until ___ 
Tapered dose - DOWN 
4. Acidophilus *NF* (L.acidoph & 
___ acidophilus) 175 mg Oral 
daily 
5. Aspirin 325 mg PO DAILY 
6. Fish Oil (Omega 3) 1000 mg PO HS 
7. Isosorbide Mononitrate 180 mg PO DAILY 
8. Heparin 5000 UNIT SC BID 
9. Magnesium Oxide 400 mg PO DAILY 
10. Tigecycline 50 mg IV Q12H 
last dose o n ___. Vitamin D ___ UNIT PO DAILY 
12. Doxazosin 4 mg PO DAILY 
13. Calcium Acetate 1334 mg PO HS 
14. Atovaquone Suspension 1500 mg PO DAILY 
15. Oxycodone SR (OxyconTIN) 10 mg PO Q12H 
hold for sedation or RR < 10 
16. Multivitamins 1 TAB PO DAILY 
17. Calcium Acetate 667 mg PO TID W/MEALS 
18. Epoetin Alfa 40,000 units SC ___ Start: HS 
19. Fluoxetine 10 mg PO DAILY 
20. Rhinocort Nasal Inhaler *NF* 1 spray Other BID 
21. Calcitriol 0.25 mcg PO DAILY 
22. Metoprolol Succinate XL 200 mg PO DAILY 
hold for sbp < 100 and hr < 60 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Atovaquone Suspension 1500 mg PO DAILY 
3. Calcitriol 0.25 mcg PO DAILY 
4. Calcium Acetate 1334 mg PO HS 
5. Calcium Acetate 667 mg PO TID W/MEALS 
6. Doxazosin 4 mg PO DAILY 
7. Fish Oil (Omega 3) 1000 mg PO HS 
8. Fluoxetine 10 mg PO DAILY 
9. Heparin Flush (10 units/ml) 2 mL IV PRN line flush 
10. Isosorbide Mononitrate 180 mg PO DAILY 
11. Oxycodone SR (OxyconTIN) 10 mg PO Q12H 
hold for sedation or RR < 10 
12. Vitamin D ___ UNIT PO DAILY 
13. Minocycline 100 mg PO BID 
14. Metoprolol Tartrate 100 mg PO BID 
hold for sbp<100, hr<50 
15. Famotidine 20 mg PO Q24H 
16. Acidophilus *NF* (L.acidoph & 
___ acidophilus) 175 mg Oral 
daily 
17. Epoetin Alfa 40,000 units SC ___ 
18. Magnesium Oxide 400 mg PO DAILY 
19. Multivitamins 1 TAB PO DAILY 
20. Rhinocort Nasal Inhaler *NF* 1 spray Other BID 
21. Glargine 7 Units Breakfast
Insulin SC Sliding Scale using REG Insulin
22. CefTAZidime 1 g IV Q12H 
23. Vancomycin Oral Liquid ___ mg PO Q6H 
24. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob 
25. Outpatient Lab Work
Please check weekly CBC, chemistry panel (chem 10); start date 
___. Silver Sulfadiazine 1% Cream 1 Appl TP BID ulcers 
27. Outpatient Lab Work
Please check vancomycin trough prior to the 4th dose of 
vancomycin 750mg QD. (first dose should be administered at rehab 
on ___ therefore trough should be checking on ___
28. Heparin 5000 UNIT SC TID 
29. Vancomycin 1000 mg IV Q 24H 
please check vanc trough on ___ (prior to 4th dose) 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Pseudomonal/Group B Strep infection of lower extremity ulcers
Pyoderma gangrenosum

Hydralazine induced autoimmune disorder
Chronic Renal Insuffiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr ___ it was a pleasure taking care of you.

You were admitted to ___ in the setting of lower extremity 
ulcers and pain. Due to concern for infection, biopsies were 
performed and you were placed on broad spectrum antibiotics. 
Prior to discharge, antibiotics were narrowed to 
ceftazadine/vanc which you will continue for the next two weeks. 
Additionally, which on IV antibiotics it will be necessary for 
you to take PO vancomycin to treat/prevent recurrent C.difficile 
infection.
In addition to infection, the biopsies revealed an inflammatory 
process that maybe contributing to your ulcers. You were started 
on two medications, minocycline and dapsone for treatment of the 
inflammation. You received these medications prior to discharge 
without appreciable side effect. Dermatology would like to see 
you before resuming dapsone.

It will be important to follow-up with your outpatient providers 
(dermatology, rheumatology) after discharge to ensure ulcers are 
healing well.

Please see a list of your medications, which are attached below.
 
Followup Instructions:
___